US04136188
In place of acetyl chloride in Example 53, ethyl chlorocarbonate was reacted with 2-(2,2-diphenyl ethyl)-2-imidazoline to give 1-ethoxycarbonyl-2-(2,2-diphenyl ethyl)-2-imidazoline having a melting point of 78° to 80° C.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | ethyl chlorocarbonate | C(OCC)(=O)Cl | C3H5ClO2
reactant | 2-(2,2-diphenyl ethyl)-2-imidazoline | C1(=CC=CC=C1)C(CC=1NCCN1)C1=CC=CC=C1 | C17H18N2
product | 1-ethoxycarbonyl-2-(2,2-diphenyl ethyl)-2-imidazoline | C(C)OC(=O)N1C(=NCC1)CC(C1=CC=CC=C1)C1=CC=CC=C1 | C20H22N2O2
